* C:\Users\TCFH2003\Documents\!!PCB_Projects\Proiect1\Proiect1_v4.asc
V1 Vcc 0 25
R5 N010 N011 24k
C3 0 N006 10n
Rload Vout 0 22k
R8 N001 N002 24k
M1 N004 N006 N008 N008 BS170
M2 N005 N003 N008 N008 BS170
M3 N008 N009 0 0 BS170
M4 N009 N009 0 0 BS170
R1 Vcc N009 5k
M5 N005 N005 Vcc Vcc BS250P
M6 N004 N005 Vcc Vcc BS250P
R2 Vcc N003 50k
R3 N003 0 50k
R4 N004 N003 1k
M7 N002 N004 0 0 BS170
M8 N001 N001 Vcc Vcc BS250P
M9 N006 N001 Vcc Vcc BS250P
M10 N010 N004 Vcc Vcc BS250P
M11 N011 N011 0 0 BS170
M12 N006 N011 0 0 BS170
R9 N007 Vout 90k
M13 Vcc N006 N007 N007 BS170
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5m uic
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\BS170.lib"
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\BS250P.lib"
* R_ctrl+ = R_ctrl- = 24k    =>    f = 2.18 kHz
* R_ctrl+ = R_ctrl- = 800    =>    f = 50 kHz
* R9 = 0   =>   A = 11V
* R9 = 90k   =>   A = 2.15V
.backanno
.end
